US07612075B2
A. 3-(5-Chloro-thiophen-2-yl)-propionaldehyde.
To a mixture of Pd(OAc)2 (0.12 g, 0.53 mmol), NaHCO3 (0.52 g, 6.19 mmol) and NaI (0.28 g, 1.87 mmol) in 5 mL of HMPA is added 5-bromo-2-chloro-thiophene (1.00 g, 5.06 mmol) and allyl alcohol (1.03 mL, 15.2 mmol). The mixture is heated to 90° C. and stirred for 16 hours. The reaction mixture is cooled to room temperature, diluted with Et2O and washed with water. The organic layer is dried over MgSO4, filtered and concentrated in vacuo. The crude residue is purified by flash column chromatography eluting with a gradient of 10% Et2O/hexanes to 20% Et2O/hexanes to provide the product (0.18 g, 1.03 mmol) as an oil. 1H NMR (CDCl3, 300 MHz) δ9.81 (s, 1H), 6.71 (d, 1H), 6.58 (d, 1H), 3.07 (t, 2H), 2.81 (t, 2H).

reactant | NaHCO3 | 6.19 mmol, 0.52 g | C(=O)(O)[O-].[Na+]
reactant | NaI | 1.87 mmol, 0.28 g | [Na+].[I-]
reactant | 5-bromo-2-chloro-thiophene | 5.06 mmol, 1.00 g | BrC1=CC=C(S1)Cl | C4H2BrClS
reactant | allyl alcohol | 15.2 mmol, 1.03 mL | C(C=C)O | C3H6O
solvent | HMPA | 5 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.53 mmol, 0.12 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(5-Chloro-thiophen-2-yl)-propionaldehyde | 1.03 mmol, 0.18 g | ClC1=CC=C(S1)CCC=O | C7H7ClOS
